US05280032
0.65 ml of pyridine and 0.99 ml of acetic anhydride were added to 1 g of 1-(3-methylphenyl)-2-[2-(morpholin-4-yl)ethoxy]ethanol. The mixture was stirred for 3 hours at room temperature. The reaction mixture was subjected to distillation under reduced pressure to remove the solvent. To the residue were added 20 ml of ethyl acetate and 10 ml of water. The mixture was adjusted to pH 10 with potassium carbonate. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography (eluant: chloroform/ethanol=30/1) to obtain 1 g of oily 1-acetoxy-1-(3-methylphenyl)-2-[2-(morpholin-4yl)ethoxy]ethane (compound No. 178).

reactant | acetic anhydride | 0.99 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(3-methylphenyl)-2-[2-(morpholin-4-yl)ethoxy]ethanol | 1 g | CC=1C=C(C=CC1)C(COCCN1CCOCC1)O | C15H23NO3
solvent | pyridine | 0.65 ml | N1=CC=CC=C1 | C5H5N
product | 1-acetoxy-1-(3-methylphenyl)-2-[2-(morpholin-4yl)ethoxy]ethane | 1 g | C(C)(=O)OC(COCCN1CCOCC1)C1=CC(=CC=C1)C | C17H25NO4
